US06235758B1
5-Methylthio-6-trifluoromethyl-1-(3-carboxy phenyl carbamoyl)indoline
To a suspension of 5-methylthio-6-trifluoromethyl-1-(3-ethoxy carbonyl phenyl carbamoyl) indoline (3 g, 7.1 mmol) in ethanol (30 ml) was added aqueous sodium hydroxide solution (5M) (7.1 ml, 35.5 mmol) and heated gently for 2 hours. It was then allowed to cool and acidified with aqueous hydrochloric acid (5M) forming a white precipitate which was filtered and dried to yield the product as a white solid (2.324 g, 83%), mp>200° C.

reactant | 5-methylthio-6-trifluoromethyl-1-(3-ethoxy carbonyl phenyl carbamoyl) indoline | 7.1 mmol, 3 g | CSC=1C=C2CCN(C2=CC1C(F)(F)F)C(NC1=CC(=CC=C1)C(=O)OCC)=O | C20H19F3N2O3S
reactant | sodium hydroxide | 35.5 mmol, 5M, 7.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Methylthio-6-trifluoromethyl-1-(3-carboxy phenyl carbamoyl)indoline | 2.324 g, 83% | CSC=1C=C2CCN(C2=CC1C(F)(F)F)C(NC1=CC(=CC=C1)C(=O)O)=O | C18H15F3N2O3S
